US08383545B2
Dimethyl 5-bromoisophthalate (8.15 g, 29.9 mmol), methyl 4-carboxyphenylboronic acid (5.91 g, 32.8 mmol), K2CO3 (8.29 g, 60.0 mmol), toluene (60 mL), ethanol (30 mL) and water (30 mL) are added into a 200 mL round-bottomed flask equipped with a magnetic stir bar and water-jacketed condenser. The resulting suspension is degassed for 15 min by sparging with nitrogen gas. Pd(PPh3)4 (0.862 g, 0.746 mmol) is added, and the mixture is heated to reflux overnight under a nitrogen atmosphere. After cooling to room temperature both layers are separated, the organic layer is dried over anhydrous Na2SO4, filtered and the solvent is removed under reduced pressure. The residue is filtered on a short silica plug using acetone as eluent and the solvent is removed by evaporation. The crude product is dissolved in dioxane (50 mL) and an aqueous KOH solution (9 M, 50 mL) is added. This mixture is heated to reflux for 12 h. The solvent is evaporated then the residue is dissolved in H2O (100 mL). The residual solids are filtered off and the filtrate is acidified with concentrated HCl (20 mL). The target compound is collected by filtration, washed with H2O and acetone and dried under vacuum to yield 5.15 g of biphenyl-3,4′,5-tricarboxylic acid (18.0 mmol as a white powder, 60%): mp>300° C.; 1H NMR (400 MHz, DMSO-d6): δ 13.23 (br s, 3H), 8.41 (d, J=1.0 Hz, 1H), 8.33 (t, J=1.0 Hz, 2H), 7.99 (d, J=8.0 Hz, 2H), 7.77 (d, J=8.0 Hz, 2H); 13C NMR (100 MHz, DMSO-d6): δ 167.4, 166.8, 142.8, 140.3, 132.6, 131.8, 130.8, 130.6, 129.9, 127.4; HRMS (EI) calcd. for C15H10O6 (m/e): 286.0477, found: 286.0485; Anal. Calcd for C15H10O6: C, 62.94; H, 3.52. Found: C, 62.54; H, 3.57. UMCM-150. Biphenyl-3,4′,5-tricarboxylic acid (0.0500 g, 0.175 mmol) and Cu(NO3)2.2.5H2O (0.0980 g, 0.525 mmol) are dissolved in DMF/dioxane/H2O (4:1:1, 15 mL). The solution is placed in a tightly capped 20 mL vial and heated at 85° C. for 6 hours. Upon cooling the mother liquor is removed and replaced twice with fresh DMF and then with acetone. The acetone is replaced with fresh solvent three times over a period of three days. The crystals are then placed in a Schlenk tube and dried under vacuum at ambient temperature until the material started to change color to deep purple. The crystals are further evacuated at 100° C. for 1-2 hours to yield 0.052 g of activated UMCM-150 (0.137 mmol as blue-green crystals, 78% based on fully evacuated material): mp>300° C. (dec); PXRD (Cu Kα, 1.5418 Å) 2θ (I/I0): 4.3 (44%), 6.9 (100%), 8.7(29%), 10.3 (24%), 10.8 (27%), 11.7 (17%), 14.0 (38%); Anal. Calcd for C15H7O6Cu1.5: C, 47.59; H, 1.86. Found: C, 47.19; H, 2.07.

reactant | Dimethyl 5-bromoisophthalate | 29.9 mmol, 8.15 g | BrC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H9BrO4
reactant | methyl 4-carboxyphenylboronic acid | 32.8 mmol, 5.91 g | COB(O)C1=CC=C(C=C1)C(=O)O | C8H9BO4
reactant | K2CO3 | 60.0 mmol, 8.29 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.746 mmol, 0.862 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 30 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | biphenyl-3,4′,5-tricarboxylic acid | 5.15 g | C1(=CC(=CC(=C1)C(=O)O)C(=O)O)C1=CC=C(C=C1)C(=O)O | C15H10O6
